US08557983B2
6-(4-chlorophenyl)benzo[d][1,3]dioxole-5-carbaldehyde
To a solution of 6-bromobenzo[d][1,3]dioxole-5-carbaldehyde (4.6 g), 4-chlorophenylboronic acid (3.78 g) and tetrakis(triphenylphosphine)palladium(0) (0.232 g) in toluene (80 mL) and methanol (30 mL) was added 2N aqueous Na2CO3 (30 mL). The mixture was stirred at reflux overnight. The mixture was diluted with ether (400 mL) and washed with water, brine and dried over Na2SO4. After filtration and concentration of the solvent, the residue was loaded on a column and eluted with 3% ethyl acetate in hexane to give the product.

reactant | 6-bromobenzo[d][1,3]dioxole-5-carbaldehyde | 4.6 g | BrC=1C(=CC2=C(OCO2)C1)C=O | C8H5BrO3
reactant | 4-chlorophenylboronic acid | 3.78 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 2N, 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 30 mL | CO | CH4O
solvent | ether | 400 mL | CCOCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.232 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-chlorophenyl)benzo[d][1,3]dioxole-5-carbaldehyde | ClC1=CC=C(C=C1)C=1C(=CC2=C(OCO2)C1)C=O | C14H9ClO3
